* source CLASSAB
Q_Q1         N00361 N00424 N00285 Q2N1893
Q_Q2         0 N00451 N00293 Q2N4919
V_V1         N00361 0 12Vdc
R_R1         N00424 N00361  580 TC=0,0 
R_R2         N00293 N00289  2.2k TC=0,0 
R_R3         N00289 N00285  2.2k TC=0,0 
R_R4         0 N00313  10k TC=0,0 
R_R5         0 N00451  580 TC=0,0 
X_D1         N00424 N00447 D1N4500 
X_D2         N00447 N00451 D1N4500 
C_C1         N00532 N00451  100u  TC=0,0 
C_C2         N00289 N00313  100u  TC=0,0 
V_V2         N00532 0  
+SIN 0 3V 1k 0 0 0
