* source CLASSB
Q_Q1         N00481 N00358 N00436 Q2N3716
Q_Q2         N00493 N00358 N00436 Q2N4918
R_R1         N00436 0  1k TC=0,0 
V_V1         N00358 0  
+SIN 0 5V 1k 0 0 0
V_V2         N00481 0 8Vdc
V_V3         0 N00493 8Vdc
